US07919496B2
5-[4-(2-TRIFLUOROMETHYLBENZOYL)-PIPERAZIN-1-YL][1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID 4-FLUOROBENZYLAMIDE
Following the procedure as described in Example 3, making variations only as required to use 4-fluorobenzylamine in place of isoamylamine to react with 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.070 g, yield 50%). 1H NMR (300 MHz, CDCl3) δ 7.74-7.71 (m, 1H), 7.64-7.52 (m, 2H), 7.42-7.39 (m, 1H), 7.34-7.26 (m, 3H), 7.03-6.97 (m, 2H), 4.56 (d, J=6 Hz, 2H), 4.09-4.02 (m, 1H), 3.91-3.83 (m, 1H), 3.75-3.59 (m, 2H), 3.57-3.48 (m, 2H), 3.37-3.29 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 174.6, 167.6, 163.9, 160.6, 158.3, 155.5, 133.9, 133.3, 133.2, 132.4, 129.7, 129.5, 129.0, 126.1, 126.8, 126.7, 125.4, 121.8, 115.7, 115.4, 49.6, 48.9, 45.9, 42.9, 40.7. MS (ES+) m/z 494 (M+1).

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)-PIPERAZIN-1-YL][1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID 4-FLUOROBENZYLAMIDE | FC1=CC=C(CNC(=O)C=2SC(=NN2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C=C1 | C22H19F4N5O2S
